US07253194B2
(R)-4-tert-Butoxycarbonylamino-5-[1-(3-phenyl-allyl)-1H-indol-3-yl]-pent-2-enoic acid methyl ester (12)
Methyl (triphenylphosphoranylidene)acetate (1.16 g, 3.465 mmol) and {1-formyl-2-[1-(3-phenyl-allyl)-1H-indol-3-yl]-ethyl}-carbamic acid tert-butyl ester (1.4 g, 3.465 mmol) in THF (19 mL) were stirred overnight under argon. The solvent was removed, Et2O added and the solution filtered. The filtrate was concentrated and the residue subject to column chromatography (silica gel, 25% EtOAc/petroleum ether) to afford the title compound (1.238 g, 78%), mp 119.3-120.6° C. 1H NMR (CDCl3) δ 7.59 (1H, d, J=7.71 Hz), 7.36-7.01 (9H, m), 6.97 (1H, s), 6.45 (1H, d, J=6.45 Hz), 6.29 (1H, dt, J=5.58 15.93 Hz), 5.88 (1H, d, J=15.93 Hz), 4.82 (2H, d, J=5.4 Hz), 4.69 (1H, br s), 3.65 (3H, s), 3.04 (2H, br s), 1.38 (9H, s), 13C NMR (CDCl3) δ 166.6, 155.1, 148.7, 136.4, 136.1, 132.3, 128.5, 128.2, 127.8, 126.4, 124.7, 121.8, 120.4, 119.3, 119.0, 109.6, 109.5, 79.7, 51.7, 51.5, 48.2, 30.4, 28.2. ISMS: 461 (M+H).

reactant | Methyl (triphenylphosphoranylidene)acetate | 3.465 mmol, 1.16 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
reactant | {1-formyl-2-[1-(3-phenyl-allyl)-1H-indol-3-yl]-ethyl}-carbamic acid tert-butyl ester | 3.465 mmol, 1.4 g | C(C)(C)(C)OC(NC(CC1=CN(C2=CC=CC=C12)CC=CC1=CC=CC=C1)C=O)=O | C25H28N2O3
reactant | THF | 19 mL | C1CCOC1 | C4H8O
product | (R)-4-tert-Butoxycarbonylamino-5-[1-(3-phenyl-allyl)-1H-indol-3-yl]-pent-2-enoic acid methyl ester | 1.238 g, 78% | COC(C=C[C@@H](CC1=CN(C2=CC=CC=C12)CC=CC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C28H32N2O4
